US08614206B2
Dess-Martin periodinane (2.3 g, 5.4 mmol) was added by portions to a solution of benzyl 4-azido-5-hydroxyazepane-1-carboxylate (1.3 g, 4.5 mmol) in DCM (25 mL). After stirring at room temperature for 18 hr, the mixture was diluted with DCM and quenched with aqueous NaHCO3 (40 mL) followed by aqueous Na2S2O3 (20%, 40 mL). The resulting mixture was stirred for 20 min. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave benzyl 4-azido-5-oxoazepane-1-carboxylate (1.10 g, 84%) as a clear oil. To a solution of this oil (1.10 g, 3.8 mmol) in DCM (10 mL) was added Bis(2-methoxyethyl)aminosulfur trifluoride (deoxo-Fluor®, Sigma-Aldrich) (50% in THF, 3.5 mL, 9.5 mmol) and the mixture was stirred at room temperature for 18 hr. The mixture was diluted with DCM, cooled in an ice/water bath and quenched by dropwise addition of saturated aqueous NaHCO3 (20 mL). Effervescence was observed. The resulting mixture was stirred for 10 min. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. The crude product was purified via silica gel column chromatography (0-40% EtOAc/isohexane) to give benzyl 5-azido-4,4-difluoroazepane-1-carboxylate (0.65 g, 56%) as a clear oil. This oil was dissolved in THF (10 mL) and water (2 mL) and triphenylphosphine (0.58 g, 2.2 mmol) added. After stirring and heating at 60° C. for 18 hr, the mixture was concentrated under reduced pressure. The crude product was dissolved in DCM and the organic layer was washed with water, separated, dried over Na2SO4 and the solvent removed under reduced pressure. To the crude product in DCM (20 mL), cooled in a water/ice bath, was added DIPEA (1.1 mL, 6.36 mmol) followed by trifluoroacetic anhydride (0.75 mL, 5.3 mmol) dropwise. The mixture was allowed to warm to room temperature, stirred for 18 hr and diluted with DCM. Water was added and the organic layer was separated, dried over Na2SO4 and the solvent was removed under reduced pressure. The residue was purified via silica gel column chromatography (0-60% EtOAc/isohexane) to yield benzyl 4,4-difluoro5-(2,2,2-trifluoroacetamido)azepane-1-carboxylate (0.59 g, 73%) as a clear oil. This trifluoroacetamide (0.57 g, 1.5 mmol) was dissolved in MeOH (50 mL) and passed through the H-Cube® (Full H2 Mode, 70° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to give crude N-(5,5-difluoroazepan-4-yl)-2,2,2-trifluoroacetamide. To a solution of the azepane (0.37 g, 1.5 mmol) in EtOH (4 mL) was added 5-chloro-1-methyl-4-nitro-1H-pyrazole from Example 1 (0.73 g, 4.5 mmol) and DIPEA (0.65 mL, 3.8 mmol). The mixture was heated at 130° C. in a microwave for 6 hr. The solvent was removed under reduced pressure and the crude product was purified via silica gel column chromatography (0-50% EtOAc/isohexane) to yield N-(5,5-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide as a pale yellow oil (0.31 g, 56%). 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 6.77 (d, J=9.0 Hz, 1H), 4.72-4.58 (m, 1H), 3.80 (s, 3H), 3.55-3.39 (m, 2H), 3.33-3.18 (m, 2H), 2.52-2.17 (m, 3H), 2.14-2.04 (m, 1H).

reactant | Dess-Martin periodinane | 5.4 mmol, 2.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | benzyl 4-azido-5-hydroxyazepane-1-carboxylate | 4.5 mmol, 1.3 g | N(=[N+]=[N-])C1CCN(CCC1O)C(=O)OCC1=CC=CC=C1 | C14H18N4O3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | benzyl 4-azido-5-oxoazepane-1-carboxylate | 1.10 g, 84% | N(=[N+]=[N-])C1CCN(CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H16N4O3
